* C:\Kicad\ClassD_3.0\sims\pwm_gen.asc
XU1 N004 Vref Vdd 0 N003 level3a Avol=1Meg GBW=10Meg Slew=150Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vref N001 Vdd 0 N002 level3a Avol=1Meg GBW=10Meg Slew=150Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N002 Triwave Vdd 0 Triwave level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vdd Vdd 0 3.3
Vref Vref 0 {Vin/2}
R2 N003 N004 {R2}
R1 N002 N004 {R1}
Rt N003 N001 {Rt}
C1 N002 N001 {C1}
.param Vin 3.3
.param freq 350k
.param Vpp 1
.param R2 330k
.param R1 {R2/Vin}
.param C1 2000p
.param Rt 4125
.tran 200u
.lib UniversalOpAmp3a.lib
.backanno
.end
