* C:\Kicad\ClassD_3.0\sims\pwm_gen.asc
XComp1 N004 Vref Vdd 0 N003 level3a Avol=10Meg GBW=10Meg Slew=500Meg Ilimit=50m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vref N001 Vdd 0 N002 level3a Avol=1Meg GBW=10Meg Slew=150Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N002 Triwave Vdd 0 Triwave level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
Vdd Vdd 0 {Vin}
Vref Vref 0 {Vin/2}
R2 N003 N004 {R2}
R1 N002 N004 {R1}
Rt N003 N001 {Rt}
C1 N002 N001 {C1}
V1 AudioIn 0 SINE(1.65 0.5 15k 0)
D2 clipiL clipped BAT54
R3 vdd N005 {Rtopbot}
R4 N005 N006 {Rmid}
R5 N006 0 {Rtopbot}
R6 clipped AudioIn 10k
D1 clipped clipH BAT54
XU1 N005 clipH Vdd 0 clipH level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU4 N006 clipiL Vdd 0 clipiL level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XComp2 clipped Triwave Vdd 0 PWM level3a Avol=10Meg GBW=500Meg Slew=50Meg Ilimit=50m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\snick\AppData\Local\LTspice\lib\cmp\standard.dio
.param Vin 3.3
.param freq 350k
.param Vpp 1
.param R2 330k
.param R1 {R2/Vin}
.param C1 2000p
.param Rt 1178
.tran 200u
.meas Voutmax MAX(V(triwave))
.meas Voutmin MIN(V(triwave))
.param rmid 10k
.param Rtopbot 22.5k
.lib UniversalOpAmp3a.lib
.backanno
.end
